US07034039B2
Tert-butyl{4-butoxy-2-isobutyl-1-oxo-6-[(E)-2-(1,3-thiazol-4-yl)ethenyl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.16 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate solution (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the residue was recrystallized from methanol-diisopropyl ether to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-[(E)-2-(1,3-thiazol-4-yl-)ethenyl]-1(2H)-isoquinolinone hydrochloride (0.11 g, 84.6%) as crystals.

reactant | Tert-butyl{4-butoxy-2-isobutyl-1-oxo-6-[(E)-2-(1,3-thiazol-4-yl)ethenyl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.3 mmol, 0.16 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)\C=C\C=1N=CSC1)=O)CC(C)C)=O | C28H37N3O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-[(E)-2-(1,3-thiazol-4-yl-)ethenyl]-1(2H)-isoquinolinone hydrochloride | 0.11 g, 84.6% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)\C=C\C=1N=CSC1)=O)CC(C)C | InChI=1S/C23H29N3O2S.ClH/c1-4-5-10-28-22-20-11-17(6-8-18-14-29-15-25-18)7-9-19(20)23(27)26(13-16(2)3)21(22)12-24;/h6-9,11,14-16H,4-5,10,12-13,24H2,1-3H3;1H/b8-6+;
